US08293768B2
Synthesis of 1-(4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one
Following the procedure as described in Example 5, making variations to replace benzyl bromide with 4-(trifluoromethyl)benzyl bromide to react with 1-(4-methylthiazol-2-yl)imidazolidin-2-one, the title compound was obtained in 42% yield: mp 102-103° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.58 (d, J=8.1 Hz, 2H), 7.39 (d, J=8.1 Hz, 2H), 6.42 (s, 1H), 4.51 (s, 2H), 4.10-4.04 (m, 2H), 3.45-3.39 (m, 2H), 2.29 (s, 3H); MS (ES+) m/z 342.2 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 1-(4-methylthiazol-2-yl)imidazolidin-2-one | CC=1N=C(SC1)N1C(NCC1)=O | C7H9N3OS
product | 1-(4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 42% yield | CC=1N=C(SC1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C15H14F3N3OS
